US07417154B2
Preparation of 4-octadecyloxybenzonitrile According to the Following Reaction Scheme:
In a 750 ml sulfonating flask, 30.0 g (0.252 mol) of 4-hydroxybenzonitrile, 84.0 g (0.252 mol) of 1-bromooctadecane and 48.7 g (0.353 mol) of finely ground potassium carbonate are introduced into 200 ml of N-methylpyrrolidone (NMP) under a nitrogen atmosphere and heated at 120° C., with stirring. After being stirred for 15 hours, the mixture is cooled to room temperature and poured into 2 liters of water, whereupon a light-beige solid precipitates out, which is filtered off and washed with water. After drying at 60° C. and 150 mbar, there are obtained 90.8 g (97% of theory) of a colourless crystalline solid of formula

reactant | 4-hydroxybenzonitrile | 0.252 mol, 30.0 g | OC1=CC=C(C#N)C=C1 | C7H5NO
reactant | 1-bromooctadecane | 0.252 mol, 84.0 g | BrCCCCCCCCCCCCCCCCCC | C18H37Br
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | N-methylpyrrolidone | 200 ml | CN1C(CCC1)=O | C5H9NO
solvent | water | 2 liters | O | H2O
product | 4-octadecyloxybenzonitrile | C(CCCCCCCCCCCCCCCCC)OC1=CC=C(C#N)C=C1 | C25H41NO
